US07049312B1
Synthesis of 3-morpholinomethyl-4-indolcarboxaldehyde
Morpholine (0.24 ml, 2.7 mmol) and formaldehyde (37% aq; 0.21 ml, 2.7 mmol) were added to glacial acetic acid (3 ml) at 0° C. After stirring for 15 minutes 4-indolcarboxaldehyde (0.27 g, 1.9 mmol) was added. The mixture was stirred 5 minutes at 0° C. and then 3½h at room temperature, prior to the addition of water (6 ml) and washing with ether. The aqueous layer was made alkaline with 2N NaOH and then extracted with dichloromethane. The combined organic extracts were washed with brine, dried over anhydrous magnesium sulfate and evaporated to afford 0.46 g of the entitled product as an oil which was used without further purification.

reactant | Morpholine | 2.7 mmol, 0.24 ml | N1CCOCC1 | C4H9NO
reactant | formaldehyde | 2.7 mmol, 0.21 ml | C=O | CH2O
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | 4-indolcarboxaldehyde | 1.9 mmol, 0.27 g | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
solvent | water | 6 ml | O | H2O
product | 3-morpholinomethyl-4-indolcarboxaldehyde | 0.46 g | O1CCN(CC1)CC1=CNC=2C=CC=C(C12)C=O | C14H16N2O2
